US07101868B2
2-(4-Fluoro-benzylamino)-N-{4-[1-methyl-1-(1-methyl-piperidin-4-yl)-ethyl]-phenyl}-nicotinamide
A solution of 2-fluoro-N-{4-[1-methyl-1-(1-methyl-piperidin-4-yl)-ethyl]-phenyl}-nicotinamide (355 mg) and 4-fluorobenzylamine (250 mg) in pyridine (10 mL) was suspended with NaHCO3 (1 g). The mixture was heated to 105° C. overnight. Solids were removed by filtration and the filtrate was concentrated in vacuo. The residue was purified on prep. TLC plates (silica, EtOAc:TEA=10:1) to provide the desired product. MS (ES+): 461 (M+1)+, Calc'd for C28H33FN4O-460.59.

reactant | 2-fluoro-N-{4-[1-methyl-1-(1-methyl-piperidin-4-yl)-ethyl]-phenyl}-nicotinamide | 355 mg | FC1=C(C(=O)NC2=CC=C(C=C2)C(C)(C2CCN(CC2)C)C)C=CC=N1 | C21H26FN3O
reactant | 4-fluorobenzylamine | 250 mg | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | NaHCO3 | 1 g | C(=O)(O)[O-].[Na+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Fluoro-benzylamino)-N-{4-[1-methyl-1-(1-methyl-piperidin-4-yl)-ethyl]-phenyl}-nicotinamide | FC1=CC=C(CNC2=C(C(=O)NC3=CC=C(C=C3)C(C)(C3CCN(CC3)C)C)C=CC=N2)C=C1 | C28H33FN4O
